US04927807
a. (3S,4S)-1-(2-Methylpropylcarbonylamino)-3-hydroxy-4-t-butyloxycarbonylamino-5-cyclohexylpentane
To (3S,4S)-1-amino-3-hydroxy-4-t-butyloxycarbonylamino-5-cyclohexylpentane (30.8 mg, 0.102 mmol) in dry methylene chloride (3 mL) at 0° C. was added 3-methyl-butyroyl chloride (0.123 mmol) and triethylamine (20.0 microliters, 0.143 mmol). The mixture was stirred at 0° C. for 1 hour, evaporated, taken up in methanol (3 mL) and treated with 1 M NaOH (1 mL). After stirring for 1 hour, the mixture was diluted with ether, washed sequentially with 0.5M H3PO4, saturated NaHCO3 solution, and brine, and then dried over Na2SO4 and evaporated to afford the desired product.

reactant | (3S,4S)-1-amino-3-hydroxy-4-t-butyloxycarbonylamino-5-cyclohexylpentane | 0.102 mmol, 30.8 mg | NCC[C@@H]([C@H](CC1CCCCC1)NC(=O)OC(C)(C)C)O | C16H32N2O3
reactant | 3-methyl-butyroyl chloride | 0.123 mmol | CC(CC(=O)Cl)C | C5H9ClO
reactant | triethylamine | 0.143 mmol, 20.0 microliters | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | (3S,4S)-1-(2-Methylpropylcarbonylamino)-3-hydroxy-4-t-butyloxycarbonylamino-5-cyclohexylpentane | CC(CC(=O)NCC[C@@H]([C@H](CC1CCCCC1)NC(=O)OC(C)(C)C)O)C | C21H40N2O4
